US05866576
This example illustrates a synthesis of 1-(3-(S)-methyl-7-methyl-6,7-oxidooctyl)-3,7-dimethylxanthine (inventive compound no. 1588S). Sodium hydride (95%) (631 mg, 25 mmol) was added to a solution of theobromine (4.14 g, 23 mmol) in dimethylsulfoxide (75 mL). After 20 minutes of stirring, (S)(-)Citronellyl bromide (5.0 g, 22.8 mmol) was added. After 16 hours of stirring at room temperature, the reaction mixture was poured into a separatory funnel containing 500 mL water and extracted with dichloromethane (3×100 mL). The organic portions were combined, washed with water (100 mL) and brine (100 mL), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The crude product obtained was further purified by flash chromatography over silica gel using 30% petroleum ether/ethyl acetate eluant to yield 5.7 g (80% yield) 1-(3-(S)-methyl-7-methyloct-6-enyl)-3,7-dimethylxanthine (inventive compound no. 1596S) as an yellow oil.

reactant | Sodium hydride | 25 mmol, 631 mg | [H-].[Na+]
reactant | theobromine | 23 mmol, 4.14 g | N1C(=O)N(C)C=2N=CN(C)C2C1=O | C7H8N4O2
reactant | (S)(-)Citronellyl bromide | 22.8 mmol, 5.0 g | C(C[C@@H](C)CCC=C(C)C)Br | C10H19Br
reactant | water | 500 mL | O | H2O
solvent | dimethylsulfoxide | 75 mL | CS(=O)C | C2H6OS
product | 1-(3-(S)-methyl-7-methyloct-6-enyl)-3,7-dimethylxanthine | 5.7 g, 80% yield | C[C@H](CCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CCC=C(C)C | C17H26N4O2
